Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
AMS
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Mr. ___ is a ___ who presented to the ED for substance 
ingestion. Patient was highly agitated at arrival and actively 
hallucination. Unable to obtain history from patient, but per 
police he ingested an N-BOMB (25I-NBOMe). 

In the ED, patient required restraints and sedation with 5mg 
Haldol and lorazepam 2mg IM. He continued with agitation, 
subsequently improved after administration of midazolam 4mg IM x 
2.

EKG notable for sinus tachycardia with QRS 84, QTc 466. Labs 
notable for Cr 1.4, AG 26, and CK 690. WBC elevated  Repeat CK 
increased to 3869. Urine notable for small blood, trace protein, 
and ketones. Patient given 1L NS x 2, and 1L LR x 3. Cr 
decreased to 1.1 with AG of 16. 

Toxicology saw patient and recommended:
-- close monitoring of exam (HR, BP, temperature, tone, 
reflexes, clonus, etc) for worsening toxicity
-- Supportive care with benzodiazepines
-- avoiding further Haldol
-- continued IVF for management ___ and CK
-- Repeat labs q4h

On the floor, patient lying comfortably in bed. Has no memory of 
what happened the prior day, other than that he ingested 
25I-NBOMe with group of fiends. Remembers nothing from ED stay 
and was surprising to be in the hospital. Patient denies 
headache, vision changes, changes

Review of systems:  
(+) Per HPI  
(-) Denies fever, chills, night sweats, recent weight loss or 
gain. denies headache, sinus tenderness, rhinorrhea or 
congestion. Denies cough, shortness of breath. Denies chest pain 
or tightness, palpitations. Denies nausea, vomiting, diarrhea, 
constipation or abdominal pain. No recent change in bowel or 
bladder habits. No dysuria. Denies arthralgias or myalgias.  

 
Past Medical History:
None
 
Social History:
___
Family History:
No history of cardiac dishease in the family.
 
Physical Exam:
Admission Physical
==================
Vital Signs: 77 105/65 16 100% RA 
General: Alert, oriented x 3, distracted with poor attention at 
times
HEENT: Mydriasis. Sclerae anicteric, MMM, oropharynx clear, 
EOMI, PERRL, neck supple, JVP not elevated, no LAD  
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Lungs: CTAB, no wheezes, rales, rhonchi  
Abdomen: Soft, non-tender, non-distended, bowel sounds present, 
no organomegaly, no rebound or guarding  
GU: Condom catheter in place
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
Neuro: CNII-XII intact, ___ strength upper/lower extremities, 
normal sensation, 2+ reflexes bilaterally, ankle clonus present 
bilaterally.

Discharge Physical
==================
Vital Signs: 97.9 129/81 97 18 100|RA 
General: Alert, oriented x 3, anxious to leave, difficulty 
understanding consequences of CK elevation. 
HEENT: Sclerae anicteric, MMM, oropharynx clear, EOMI, PERRL, 
neck supple, JVP not elevated, no LAD  
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Lungs: CTAB, no wheezes, rales, rhonchi  
Abdomen: Soft, non-tender, non-distended, bowel sounds present, 
no organomegaly, no rebound or guarding  
GU: No foley
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
Neuro: CNII-XII intact, ___ strength upper/lower extremities, 
normal sensation, 2+ reflexes bilaterally, no ankle clonus. 
 
Pertinent Results:
Admission Labs
==============
___ 02:22AM BLOOD WBC-13.1* RBC-5.30 Hgb-15.8 Hct-45.0 
MCV-85 MCH-29.8 MCHC-35.1 RDW-12.6 RDWSD-38.3 Plt ___
___ 02:22AM BLOOD Neuts-85.7* Lymphs-8.0* Monos-4.3* 
Eos-0.8* Baso-0.4 Im ___ AbsNeut-11.18* AbsLymp-1.05* 
AbsMono-0.56 AbsEos-0.10 AbsBaso-0.05
___ 02:22AM BLOOD Plt ___
___ 02:22AM BLOOD Glucose-105* UreaN-13 Creat-1.4* Na-141 
K-4.3 Cl-99 HCO3-20* AnGap-26*
___ 02:22AM BLOOD CK(CPK)-690*
___ 02:22AM BLOOD Calcium-10.1 Mg-2.8*
___ 02:22AM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG
___ 04:01PM BLOOD ___ pO2-106* pCO2-46* pH-7.35 
calTCO2-26 Base XS-0
___ 04:01PM BLOOD Lactate-1.6

Pertinent Interval Labs
=======================
___ 02:22AM BLOOD CK(CPK)-690*
___ 07:45AM BLOOD CK(CPK)-3869*
___ 03:15PM BLOOD CK(CPK)-5494*
___ 07:55PM BLOOD CK(CPK)-4621*
___ 11:43PM BLOOD CK(CPK)-3770*
___ 07:35AM BLOOD CK(CPK)-3740*

Discharge Labs
==============
___ 07:35AM BLOOD WBC-7.0 RBC-4.68 Hgb-13.7 Hct-41.0 MCV-88 
MCH-29.3 MCHC-33.4 RDW-12.8 RDWSD-40.3 Plt ___
___ 07:35AM BLOOD Plt ___
___ 07:35AM BLOOD Glucose-74 UreaN-7 Creat-0.9 Na-139 K-3.3 
Cl-99 HCO3-25 AnGap-18
___ 07:35AM BLOOD CK(CPK)-3740*
___ 07:35AM BLOOD Calcium-9.1 Phos-2.3* Mg-2.0

Imaging & studies
=================
None

Microbiology
============
None

 
Brief Hospital Course:
Mr. ___ is a ___ who presented to the ED for AMS ___ 
ingestion. Patient was highly agitated at arrival and actively 
hallucinating, but responded to benzodiazepines and fluids with 
improvement in mental status. Found to have ___ and ___, which 
have resolved. Also found to have rhabdomyolysis, with CK 
uptrending to 5494. Patient was started on continuous LR at 
250cc/h with improvement in his kidney function and CK. Patient 
at risk for type B lactic acidosis and multisystem organ failure 
from 25I-NBOMe ingestion per other case reports, however 
adamantly wants to leave the hospital at this time. He will need 
to continue to drink copious fluids after discharge with follow 
up labs performed in ___ days to assess for continued 
improvement in Cr and CK. 

# Toxic encephalopathy ___ intoxication: Initiating 
with altered status due to ingestion of 25I-NBOMe. Patient 
improved after administration of lorazepam IM and Haldol 5mg IV, 
although more significant improvement after midazolam 5mg IM x 
2. Patient initially with agitation, myhdriasis, and clonus. 
Given Adderall and fluoxetine home medications possibility of 
serotonin syndrome, however low concern given current presention 
and stability. Resolved with time and IV fluids without 
requirement for continued benzodiazepines. Remained medically 
stable on the floor. Prior discharge, patient appeared to be at 
baseline, ambulating, neurologically intact. 

# Rhabdomyolysis: Developed rhabdomylosis in the setting of drug 
ingestion. CK peaked at 5494 and downtrended to 3740 after 
administration of LR continuous at 250cc/h. Patient will need to 
continue to drink plenty of fluids after discharge and return to 
the hospital urgently if he notices ___ colored urine, 
muscle pain, muscle weakness, or other symptoms. Will need 
recheck labs in ___ days and f/u with PCP. He was counseled on 
the importance of aggressive fluid intake and need for follow 
up, and he verbalized understanding and intent to adhere to 
plan. 

# ___ ___ hypovolemia/rhabdomyolysis: ___ with Cr of 1.6. Likely 
due to combination of dehydration and rhabdomyolyis from toxic 
ingestion. Patient with hyaline casts in the urine at admission, 
suggesting hypovolemia. Improved after administration of 5L IVF, 
downtrended to 1.0. Will need recheck Cr in ___ days to ensure 
baseline and stability. 

# ___: High anion gap metabolic acidosis, likely in the setting 
of toxin ingestion. UTox negative for alcohol, may be due to 
starvation ketoacidosis with elevated urine ketones ___ 
decreased PO intake along with rhabdomyolysis releasing organic 
anions. 25I-NBOMe has reported to cause type B lactic acidosis 
associated with multiorgan system dysfunction ___ et al., 
___, however patient appears stable at this time. Corrected 
after administration of PO fluids.

TRANSITIONAL ISSUES
===================
[] Continue drinking copious fluids (water and electrolyte-rich 
fluids)
[] Please have Chem 10 and CK drawn in ___ days and follow up 
with your PCP to assess kidney function and resolving 
rhabdomyolysis
# Code: FULL

 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Amphetamine-Dextroamphetamine 20 mg PO DAILY 
2. FLUoxetine 40 mg PO DAILY 

 
Discharge Medications:
1.  Amphetamine-Dextroamphetamine 20 mg PO DAILY  
2.  FLUoxetine 40 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary Diagnosis
-----------------
Toxic encephalopathy
Acute Kidney Injury
Rhabdomyolysis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___, 

You were admitted to ___ for altered mental status and 
hallucinations after taking 25I-NBOMe. In the emergency 
department, you were combative and required sedation with 
intravenous benzodiazepines. You became less agitated and were 
able to be sedated. 

You kidney function worsened and we were concerned for breakdown 
of muscles called rhabdomyolysis. We gave you copious fluids and 
your kidney function improved, although your creatinine kinase 
(CK) peaked and then started to decline. Your CK was still 
highly elevated on ___, but stable and decreased from the peak 
value. 

You will need to monitor your symptoms very closely after you 
leave the hospital. There have been numerous reports of organ 
damage related to ingestion of 25I-NBOMe, which can occur ___ 
hours after ingestion. However, you adamantly wanted to leave 
the hospital and we have counseled you on the risks of leaving, 
which include worsening kidney function, including the 
possibility of requiring dialysis. It is critical that you drink 
copious fluids in the next couple of days including water and 
electrolyte-rich fluids, such as Gatorade and follow up for lab 
tests on ___. 

Please return to the hospital if you notice any worsening of 
your symptoms, including but not limited to, muscle weakness, 
muscle pain, fever, trouble thinking, palpitations, or 
dark-colored urine. 

It was a pleasure taking care of you and we wish you the best. 

Sincerely, 

Your ___ Medicine Team
 
Followup Instructions:
___